US08937078B2
Step A: Preparation of 1-[6-ethylamino-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester.
Acetaldehyde (1 mL) was added to 1-[6-amino-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (0.250 g, 0.582 mol) and 4 Å molecular sieves (0.35 g) in ethanol (1.9 g). The reaction mixture was stirred at room temperature for 18 h and was then filtered. Ethanol and acetaldehyde were removed under high vacuum. The residue was redissolved in DCE (1.5 mL) and sodium triacetoxyborohydride (0.308 g, 1.46 mmol) was added. The reaction mixture was stirred at room temperature for 6 d, then diluted with EtOAc (30 mL) and washed with saturated aqueous sodium bicarbonate (20 mL). The aqueous layer was extracted with EtOAc (30 mL) and the combined organic layers were washed with brine (20 mL), dried (MgSO4), and concentrated. The residue was purified via FCC (5-65% EtOAc/hexanes) to yield the titled compound (87.0 mg, 33% yield). MS (ESI/Cl): mass calcd. for C22H31N5O4Si, 457.2; m/z found, 458.2 [M+H]+.

reactant | Acetaldehyde | 1 mL | C(C)=O | C2H4O
reactant | 1-[6-amino-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 0.582 mol, 0.250 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)N | C20H27N5O4Si
reactant | sodium triacetoxyborohydride | 1.46 mmol, 0.308 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 1.9 g | C(C)O | C2H6O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-[6-ethylamino-4-oxo-3-(2-trimethylsilanyl-ethoxymethyl)-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 87.0 mg, 33% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1COCC[Si](C)(C)C)=O)NCC | C22H31N5O4Si
